US04125732
Methyl bromo{p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate
A mixture of 64 g of methyl{p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate and 37.4 g of N-bromosuccinimide in 800 ml of carbon tetrachloride is stirred and refluxed for 72 hours or until the reaction is complete. The solution is filtered and the filtrate passed through a silica gel column with carbon tetrachloride as eluent to give 49.4 g of white crystals, mp 76°-80° C.

reactant | methyl{p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate | 64 g | COC(CC1=CC=C(C=C1)OCCOC1=CC=C(C=C1)Cl)=O | C17H17ClO4
reactant | N-bromosuccinimide | 37.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 800 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl bromo{p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate | 49.4 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)Cl | C17H16BrClO4
